US05968875
To a 100 mL flask equipped with magnetic stirrer was added 5,6-dichloronicotinic acid: t-butyl ester (5.0 g, 0.02 mol), n-methylpyrrolidinone (NMP) (5mL), diglyme (1 mL, internal standard) and spray dried KF (5.8 g, 0.1 mol). The slurry was heated to 120° C. for three hours. The mixture was cooled and partitioned between 1,1,2,2-tetrachloroethylene (30 mL) and water. The aqueous phase was extracted with 1,1,2,2,-tetrachloroethylene (30 mL) and the organic phases combined, extracted with 1N NaOH, dried (Na2SO4) and the solvent removed in vacuo to give 3.3 g of solid product that was determined to be 70% 5-chloro-6-fluoronicotinic acid: t-butyl ester and 30% 5,6-dichloronicotinic acid: t-butyl ester. This product was added to a mixture of methylene chloride (10 mL), 2-hydroxy-α-methyoxyimino-N-methyl-benzeneacetamide (0.5 g, 2.4 mmol), powdered potassium carbonate (0.82 g, 6.0 mmol) and tetra-butylammonium bromide (0.08 g, 0.25 mmol). After 24 hours, the mixture was added to ether and extracted with dilute sulfuric acid, water, and 1N NaOH. The solvent was removed in vacuo and the residue was given a chromatographic separation over silica gel using 15% acetonitrile: 85% methylene chloride to give α-(Methoxyimino)-N-methyl-2-[[3-chloro-5-(t-butoxycarbonyl)-2-pyridinyl]oxy]-benzeneacetamide (0.169 g).

reactant | 5-chloro-6-fluoronicotinic acid | ClC=1C(=NC=C(C(=O)O)C1)F | C6H3ClFNO2
reactant | 5,6-dichloronicotinic acid | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | 2-hydroxy-α-methyoxyimino-N-methyl-benzeneacetamide | 2.4 mmol, 0.5 g | OC1=C(C=CC=C1)C(C(=O)NC)=NOC | C10H12N2O3
reactant | potassium carbonate | 6.0 mmol, 0.82 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-butylammonium bromide | 0.25 mmol, 0.08 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | α-(Methoxyimino)-N-methyl-2-[[3-chloro-5-(t-butoxycarbonyl)-2-pyridinyl]oxy]-benzeneacetamide | 0.169 g | CON=C(C(=O)NC)C1=C(C=CC=C1)OC1=NC=C(C=C1Cl)C(=O)OC(C)(C)C | C20H22ClN3O5
